** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/jupyter_notebooks/gmId/gm-ID-gf180mcuD/starter_files_open_source_tools/gf180mcuD/techsweep_nfet_03v3.sch
**.subckt techsweep_nfet_03v3
vg g 0 DC 0.9 AC 1
vd d 0 0.9
vb b 0 0
Hn n 0 vd 1
XM1 d g 0 b nfet_03v3 L={lx} W={wx} nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
**** begin user architecture code


.param wx=2u lx=0.28u
.noise v(n) vg lin 1 1 1 1

.control
option numdgt = 3
set wr_singlescale
set wr_vecnames

compose l_vec  values 0.28u 0.29u
+ 0.3u 0.4u 0.5u 0.6u 0.7u 0.8u 0.9u 1u 2u 3u
compose vg_vec start= 0 stop=3.301  step=25m
compose vd_vec start= 0 stop=3.301  step=25m
compose vb_vec start= 0 stop=-0.4 step=-0.2

foreach var1 $&l_vec
  alterparam lx=$var1
  reset
  foreach var2 $&vg_vec
    alter vg $var2
    foreach var3 $&vd_vec
      alter vd $var3
      foreach var4 $&vb_vec
        alter vb $var4
        run
        wrdata techsweep_nfet_03v3_w_2um_nf_6.txt noise1.all
        destroy all
        set appendwrite
        unset set wr_vecnames
      end
    end
  end
end
unset appendwrite

alterparam lx=0.28u
reset
op
show
write techsweep_nfet_03v3_w_2um_nf_6.raw
.endc




.save @m.xm1.m0[capbd]
.save @m.xm1.m0[capbs]
.save @m.xm1.m0[cdd]
.save @m.xm1.m0[cgb]
.save @m.xm1.m0[cgd]
*.save @m.xm1.m0[cgdo]
.save @m.xm1.m0[cgg]
.save @m.xm1.m0[cgs]
*.save @m.xm1.m0[cgso]
.save @m.xm1.m0[css]
.save @m.xm1.m0[gds]
.save @m.xm1.m0[gm]
.save @m.xm1.m0[gmbs]
.save @m.xm1.m0[id]
.save @m.xm1.m0[l]
.save @m.xm1.m0[vth]
.save @vb[dc]
.save @vd[dc]
.save @vg[dc]
.save onoise.m.xm1.m0.id
.save onoise.m.xm1.m0.1overf
.save g d b n



.include /home/vasil/Downloads/SSCS_PICO_2025/src/jupyter_notebooks/gmId/gm-ID-gf180mcuD/starter_files_open_source_tools/gf180mcuD/models_updated_2025.07.19/ngspice/design.ngspice
.lib /home/vasil/Downloads/SSCS_PICO_2025/src/jupyter_notebooks/gmId/gm-ID-gf180mcuD/starter_files_open_source_tools/gf180mcuD/models_updated_2025.07.19/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends
.end
